US05434165
1-(1-Azabicyclo[3.3.0]octan-5-yl)methylamino-5-nitronaphthalene
1-Amino-5-nitronaphthalene and 5-chloromethyl-1-azabicyclo[3.3.0]octane were reacted in the same manner as in Example 3 to obtain the titled compound in a yield of 45.3%.

reactant | 1-Amino-5-nitronaphthalene | NC1=CC=CC2=C(C=CC=C12)[N+](=O)[O-] | C10H8N2O2
reactant | 5-chloromethyl-1-azabicyclo[3.3.0]octane | ClCC12CCCN2CCC1 | C8H14ClN
product | 1-(1-Azabicyclo[3.3.0]octan-5-yl)methylamino-5-nitronaphthalene | yield of 45.3% | N12CCCC2(CCC1)CNC1=CC=CC2=C(C=CC=C12)[N+](=O)[O-] | C18H21N3O2
